### PR TITLE
[Merged by Bors] - chore: forward-port leanprover-community/mathlib#19179

### PR DESCRIPTION
**Pull request by eric-wieser**
Strangely, making one proof use fewer simp lemmas has made the proof slower (and the hearbeats have been bumped accordingly)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Normal.lean [hunk 1]
```diff
@@ -162,12 +162,11 @@ theorem AlgEquiv.transfer_normal (f : E ≃ₐ[F] E') : Normal F E ↔ Normal F
 -- salient in the future, or at least taking a closer look at the algebra instances it uses.
 attribute [-instance] AdjoinRoot.instSMulAdjoinRoot
 
-set_option maxHeartbeats 210000 in
+set_option maxHeartbeats 300000 in
```
Comment (semorrison) [inline Mathlib/FieldTheory/Normal.lean:165]: This had been cranked down to the bare minimum, and was then timing out with this PR's change!

File: Mathlib/FieldTheory/Normal.lean [hunk 2]
```diff
@@ -162,12 +162,11 @@ theorem AlgEquiv.transfer_normal (f : E ≃ₐ[F] E') : Normal F E ↔ Normal F
...
 theorem Normal.of_isSplittingField (p : F[X]) [hFEp : IsSplittingField F E p] : Normal F E := by
   rcases eq_or_ne p 0 with (rfl | hp)
-  · have := hFEp.adjoin_roots
-    simp only [Polynomial.map_zero, roots_zero, Multiset.toFinset_zero, Finset.coe_empty,
-      Algebra.adjoin_empty] at this
+  · have := hFEp.adjoin_rootSet
+    simp only [rootSet_zero, Algebra.adjoin_empty] at this
```
Comment (eric-wieser) [inline Mathlib/FieldTheory/Normal.lean:169]: In https://github.com/leanprover-community/mathlib4/pull/4891 the proof was the longer
```lean
simp only [Polynomial.map_zero, roots_zero, Multiset.toFinset_zero, Finset.coe_empty, rootSet,
      Algebra.adjoin_empty] at this
```
Its weird that this proof is somehow faster.

Comment (riccardobrasca) [reply Mathlib/FieldTheory/Normal.lean:169]: Since this works with `maxHeartbeats 210000` I think we can use it, but it's probably not very important.

In any case everything LGTM, thanks!

bors d+
